US08859814B2
4-amino-3,5-dichloro-N-{(1R)-1-[(trans)-octahydroquinolin-1(2H) -ylcarbonyl]-3-phenylpropyl}benzenesulfonamide is prepared from Boc-(D)-homo -phenylalanine, (±)-trans-decahydroquinoline, and 4-amino-3,5dichlorobenzene -sulfonyl chloride in the same manner that Example 1 is synthesized. ESI MS: Calc: 523.2; Found: 524.3 (M+H)+.

reactant | Boc-(D)-homo -phenylalanine | C(=O)(OC(C)(C)C)N[C@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | (±)-trans-decahydroquinoline | N1CCC[C@@H]2CCCC[C@@H]12 | C9H17N
reactant | 4-amino-3,5dichlorobenzene -sulfonyl chloride | NC1=C(C=C(C=C1Cl)S(=O)(=O)Cl)Cl | C6H4Cl3NO2S
product | 4-amino-3,5-dichloro-N-{(1R)-1-[(trans)-octahydroquinolin-1(2H) -ylcarbonyl]-3-phenylpropyl}benzenesulfonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)N[C@H](CCC1=CC=CC=C1)C(=O)N1CCC[C@@H]2CCCC[C@@H]12)Cl | C25H31Cl2N3O3S
